US08071586B2
4-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid (3,4-dichloro-phenyl)-amide
In analogy to the procedure described in example 5, 4-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-[1,4]diazepan-5-one dihydrochloride (US 2007249589, described as 4-[3-((−)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-[1,4]diazepan-5-one dihydrochloride) and 3,4-dichlorophenyl isocyanate gave after separation with flash chromatography (silicycle SiO2, dichloromethane/methanol 95:5 to 4:1) 43% of the title compound as white solid. MS: 469.3 (MH+, 2Cl).

reactant | 4-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-[1,4]diazepan-5-one dihydrochloride | Cl.Cl.O[C@H]1C2(CC2)CCN(C1)CCCN1CCNCCC1=O
reactant | 3,4-dichlorophenyl isocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
product | 4-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid (3,4-dichloro-phenyl)-amide | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(C(CC1)=O)CCCN1C[C@H](C2(CC2)CC1)O | C22H30Cl2N4O3
